US07358268B2
(i) 2-Cyano-5-methyl-3H-imidazole-4-carboxylic acid ethyl ester
To a solution of 1 g 2-Iodo-5-methyl-3H-imidazole-4-carboxylic acid ethyl ester in 3 ml pyridine 640 mg CuCN were added and the mixture stirred for 3 h at 110° C. Then the pyridine was removed under reduced pressure and the residue was directly purified by chromatography on silica eluting with DCM/MeOH 97:3. Yield: 494 mg.

reactant | 2-Iodo-5-methyl-3H-imidazole-4-carboxylic acid ethyl ester | 1 g | C(C)OC(=O)C=1NC(=NC1C)I | C7H9IN2O2
reactant | pyridine | 3 ml, 640 mg | N1=CC=CC=C1 | C5H5N
product | 2-Cyano-5-methyl-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC(=NC1C)C#N | C8H9N3O2
